US07560462B2
Step 2. 1-Ethynyl-4-methyl-2-nitro-benzene
To a stirred solution of tert-butyl-dimethyl-(4-methyl-2-nitro-phenylethynyl)-silane (3.5 g, 15 mmol) in MeOH (20 mL) was added NaOH (1.8 g, 45 mmol, in 5 mL of H2O). After stirring for 1 hour, the reaction was diluted with EtOAc (150 mL) and 10% Na2CO3 (150 mL). The layers were separated and the aqueous layer was extracted with EtOAc (1 by 75 mL) The organic layers were combined, dried over MgSO4, filtered, and dried under reduced pressure to yield 1.40 g (58% over two steps) of a brown solid.

reactant | tert-butyl-dimethyl-(4-methyl-2-nitro-phenylethynyl)-silane | 15 mmol, 3.5 g | C(C)(C)(C)[Si](C#CC1=C(C=C(C=C1)C)[N+](=O)[O-])(C)C | C15H21NO2Si
reactant | NaOH | 45 mmol, 5 mL, 1.8 g | [OH-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | Na2CO3 | 150 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 1-Ethynyl-4-methyl-2-nitro-benzene | C(#C)C1=C(C=C(C=C1)C)[N+](=O)[O-] | C9H7NO2
